.SUBCKT SDFFSX2H7R CK D Q QN SE SI SN VDD VSS
*.PININFO CK:I D:I SE:I SI:I SN:I Q:O QN:O VDD:B VSS:B
MMN6 net056 SN VSS VSS nm1p2_svt_lp W=250n L=60n m=1
MMN1 net099 cn net36 VSS nm1p2_svt_lp W=150n L=60n m=1
MMN2 net36 net0146 net056 VSS nm1p2_svt_lp W=150n L=60n m=1
MMN4 net46 net33 net056 VSS nm1p2_svt_lp W=250n L=60n m=1
MMP0 net099 SN VDD VDD pm1p2_svt_lp W=200n L=60n m=1
MMP2 net26 net0146 VDD VDD pm1p2_svt_lp W=150n L=60n m=1
MMP1 net099 c net26 VDD pm1p2_svt_lp W=150n L=60n m=1
MMP3 net46 net33 VDD VDD pm1p2_svt_lp W=330n L=60n m=1
XXI32 SI SE sen VDD VSS net076 / TSINV pl=60n pw=250n nl=60n nw=180n
XXI29 net46 c cn VDD VSS net33 / TSINV pl=60n pw=150n nl=60n nw=150n
XXI30 D sen SE VDD VSS net076 / TSINV pl=60n pw=280n nl=60n nw=210n
XXI9 c cn net46 net099 VDD VSS / TG pl=60n pw=340n nl=60n nw=240n
XXI33 cn c net076 net33 VDD VSS / TG pl=60n pw=280n nl=60n nw=210n
XXI34 SE VDD VSS sen / INV pl=60n pw=280n nl=60n nw=200n
XXI12 net099 VDD VSS QN / INV pl=60n pw=400n nl=60n nw=280n
XXI5 net0146 VDD VSS Q / INV pl=60n pw=400n nl=60n nw=280n
XXI13 cn VDD VSS c / INV pl=60n pw=280n nl=60n nw=200n
XXI10 net099 VDD VSS net0146 / INV pl=60n pw=340n nl=60n nw=240n
XXI4 CK VDD VSS cn / INV pl=60n pw=280n nl=60n nw=200n
.ENDS
